US09056858B2
Synthesis of 1-(5-methanesulfonyl-furan-2-yl)-cyclopropylamine hydrochloride salt (9)
[1-(5-Methanesulfonyl-furan-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester (0.430 g, 1.42 mmol) is dissolved in a 4M solution of HCl in dioxane (5.0 mL, 20 mmol) at room temperature. After stirring for 16 hours, the mixture is evaporated under a stream of nitrogen. The resulting oily solid is suspended in ethyl acetate (5 mL), ethyl ether (25 mL) is added, and the mixture is filtered to afford crude title product as a solid, which is used without purification.

reactant | [1-(5-Methanesulfonyl-furan-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester | 1.42 mmol, 0.430 g | C(C)(C)(C)OC(NC1(CC1)C=1OC(=CC1)S(=O)(=O)C)=O | C13H19NO5S
reactant | dioxane | 20 mmol, 5.0 mL | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
product | 1-(5-methanesulfonyl-furan-2-yl)-cyclopropylamine hydrochloride salt | Cl.CS(=O)(=O)C1=CC=C(O1)C1(CC1)N | InChI=1S/C8H11NO3S.ClH/c1-13(10,11)7-3-2-6(12-7)8(9)4-5-8;/h2-3H,4-5,9H2,1H3;1H
